US08022205B2
3-(4-Methyl-3-nitro-phenyl)-pyridine
Using 4-bromo-2-methyl-1-nitro-benzene (500 mg) and tetrakistriphenylphosphine palladium (26.7 mg) instead of S-Phos, and pyridin-3-boronic acid-1,3-propanediol cyclic ester (396 mg) instead of phenylboronic acid-pinacol ester, in the same manner as Step A in Example 1-D-312, the desired compound was obtained (195 mg, 39%).

reactant | 4-bromo-2-methyl-1-nitro-benzene | 500 mg | BrC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | pyridin-3-boronic acid 1,3-propanediol cyclic ester | 396 mg | N1=CC(=CC=C1)B(O)O.B1(OCCCO1)C2=CN=CC=C2
product | 3-(4-Methyl-3-nitro-phenyl)-pyridine | CC1=C(C=C(C=C1)C=1C=NC=CC1)[N+](=O)[O-] | C12H10N2O2
